US05723165
19 ml of 4N-HCl/dioxane solution were added to 1.31 g (3.76 mmols) of N-t-butoxycarbonyl-α,α-diethylglycine (S)-α-ethylbenzylamide, and the mixture was stirred at room temperature for one hour. The reaction mixture was concentrated under reduced pressure, 30 ml of ether was added to the residue, and this was again concentrated. The residue was dissolved in 25 ml of methylene chloride, and 0.55 ml (4.13 mmols) of triethylamine and 1.48 g (4.13 mmols) of β-benzyl-N-benzyloxycarbonyl-L-aspartate were added thereto. Under cooling, 0.79 g (4.13 mmols) of water-soluble carbodiimide hydrochloride and 0.51 g (3.76 mmols) of HOBt were added thereto, and these were stirred for one hour under cooling and then overnight at room temperature. The reaction mixture was concentrated under reduced pressure and 50 ml of aqueous 5% citric acid were added. The resulting residue was extracted two times each with 50 ml of ethyl acetate and then washed with 20 ml of water, 25 ml of aqueous 5% sodium hydrogencarbonate and 20 ml of brine, in that order. The resulting organic layer was dried with anhydrous magnesium sulfate and filtered, and the resulting filtrate was concentrated under reduced pressure. The residue was dissolved in 30 ml of methanol, 0.30 g of 10% Pd-carbon (water content 50) was added thereto, and the mixture was reduced under hydrogen. 40 ml of water was added to this, the catalyst was removed by filtration, and the resulting filtrate was concentrated to about 1/4. This was then stored in a refrigerator overnight. The crystal thus precipitated was removed by filtration and dried to obtain 0.40 g (1.10 mmols) of α-L-aspartyl-α,α-diethylglycine (S)-α-ethylbenzylamide.

reactant | HCl dioxane | Cl.O1CCOCC1
reactant | N-t-butoxycarbonyl-α,α-diethylglycine (S)-α-ethylbenzylamide | 3.76 mmols, 1.31 g | C(C)[C@@H](C1=CC=CC=C1)NC(C(NC(=O)OC(C)(C)C)(CC)CC)=O | C20H32N2O3
reactant | triethylamine | 4.13 mmols, 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | β-benzyl-N-benzyloxycarbonyl-L-aspartate | 4.13 mmols, 1.48 g | C(C1=CC=CC=C1)C([C@H](NC(=O)OCC1=CC=CC=C1)C(=O)[O-])C(=O)[O-]
reactant | water | 4.13 mmols, 0.79 g | O | H2O
reactant | HOBt | 3.76 mmols, 0.51 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
product | α-L-aspartyl-α,α-diethylglycine (S)-α-ethylbenzylamide | 1.10 mmols, 0.40 g | C(C)[C@@H](C1=CC=CC=C1)NC(C(NC([C@@H](N)CC(O)=O)=O)(CC)CC)=O | C19H29N3O4
